US07544838B2
4-Hydroxy-benzoic acid benzylidene-hydrazide (DY162)
To a solution of 4-hydroxy-benzoic acid hydrazide (0.5 g, 0.0033 mol) in abs. EtOH (10 mL) and benzaldehyde (0.35 g, 0.0033 mol) was added 1 drop of acetic acid. The reaction mixture was refluxed for 4 hours. The reaction mixture was cooling to room temperature and concentrated to remove solvent. The resulting residue was solidified by EtOAc to give white solid 0.68 g, in 86% yield, mp: 226.4° C. 1H NMR (CD3OD) δ 8.30 (s, 1H), 7.83 (d, 4H), 7.42 (d, 3H), 6.88 (d, 2H). 13C NMR (CDCl3) δ 167.5, 162.9, 149.8, 135.7, 131.4, 130.9, 129.8, 128.7, 124.9, 116.3. Anal. Calcd for C14H12N2O2: C, 69.99; H, 5.03; N, 11.66. Found: C, 69.82; H, 5.34; N, 11.60.

reactant | 4-hydroxy-benzoic acid hydrazide | 0.0033 mol, 0.5 g | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
reactant | benzaldehyde | 0.0033 mol, 0.35 g | C(C1=CC=CC=C1)=O | C7H6O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-Hydroxy-benzoic acid benzylidene-hydrazide | 0.68 g, 86% yield | C(C1=CC=CC=C1)=NNC(C1=CC=C(C=C1)O)=O | C14H12N2O2
